US05338856
C. Preparation of 5-Bromomethyl-2-trifluoromethylthiazole
5-Methyl-2-trifluoromethylthiazole (2.26 g, 13.5 mmol), N-bromosuccinimide (2.64 g, 14.6 mmol), and 50 mL of benzene were placed in a jacketed flask and the resulting mixture was stirred and irradiated with a 250 Watt sun lamp placed 10 cm from the flask. The temperature rose from 25° to 40° C. After 3 hr an additional 0.26 g (1.5 mmol) of N-bromosuccinimide was added and the reaction continued another 30 min. Analysis of an aliquot by gas-liquid chromatography indicated that the mixture contained about 7 percent starting material, 73 percent title compound, and 17 percent dibrominated material. The mixture was extracted with 50 mL of 2 percent aqueous sodium hydroxide, dried over magnesium sulfate, filtered, and concentrated by evaporation under reduced pressure to obtain a yellow oil. This was purified by medium pressure liquid chromatography to obtain 1.86 g (56 percent of theory) of 5-bromomethyl-2-trifluoromethylthiazole as a pale yellow oil which was 97 percent pure by gas liquid chromatography. The proton NMR spectrum had absorptions at δ4.69 (s, 2H) and 7.87 (s, 1H).

reactant | 5-Methyl-2-trifluoromethylthiazole | 13.5 mmol, 2.26 g | CC1=CN=C(S1)C(F)(F)F | C5H4F3NS
reactant | N-bromosuccinimide | 14.6 mmol, 2.64 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | N-bromosuccinimide | 1.5 mmol, 0.26 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | benzene | 50 mL | C1=CC=CC=C1 | C6H6
product | 5-Bromomethyl-2-trifluoromethylthiazole | 73 percent | BrCC1=CN=C(S1)C(F)(F)F | C5H3BrF3NS
